Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / adhesive tape / tramadol
 
Attending: ___.
 
Chief Complaint:
Cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with diffuse myopathy who was brought in by ambulance from 
PCP office due to concern for pneumonia.  
Starting ___, patient has developed productive cough, sore 
throat, wheezing and fevers up to 100.8. She was given one dose 
of 500mg azithromycin yesterday prior to being seen by her PCP 
___. Upon evaluation, she was found to be hypoxic to 91% on RA 
and CXR showed multilobar pneumonia. Because of her history of 
respiratory issues, she was sent in to the ED for further 
evaluation and management.  
She endorses cough productive of green sputum and dyspnea. She 
has weakness in her hands, legs and lungs from her myopathy, but 
this is not worse than baseline. No sick contacts, no recent 
travel. No chest pain or abdominal pain.  
In the ED, initial vitals were: 98.9 76 148/72 20 98% 2L NC  
- Labs were significant for WBC 16.1 with 91% PMNs, sodium 128, 
HCO3 21, anion gap 13 and lactate 1.7.  
- Imaging revealed multilobar infiltates (review this)  
- The patient was given 750mg IV levofloxacin in the ED.  
Vitals prior to transfer were: HR 80, BP 145/86, RR 20, SpO2 96% 
NC.  
Upon arrival to the floor, the patient complained of a cough. 
She denies history of difficulty with swallowing foods or 
liquids.  
 
Past Medical History:
Urinary incontinence  
Inclusion Body Myositis
Osteoporosis
HYPOGAMMAGLOBULIMEMIA, UNSPEC  
FRACTURE - THORACIC COMPRESSION  
MYOPATHY, OTHER  
HYPERCHOLESTEROLEMIA  
OSTEOARTHRITIS, R CMC joint - HAND  
SPINAL STENOSIS - LUMBAR L2-3  
HISTORY BASAL CELL CARCINOMA-nose and ant chest  
GLAUCOMA SUSPECT, UNSPEC  
HISTORY TOBACCO USE  
HYPERTENSION - ESSENTIAL  

 
Social History:
___
Family History:
Parents- strokes
Sister- unknown heart problem
Brother- glaucoma
  
 
Physical ___:
ADMISSION PHYSICAL EXAM
=======================
Vitals: T99.5, BP ___, HR 92, RR 20, SpO2 99%2L NC  

General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: exam limited by patient coughing; mild wheezing and 
dulness to percussion in the right hemithorax approximately 
halfway up; no cracklesAbdomen: Soft, non-tender, non-distended, 
bowel sounds present, no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: CNII-XII intact, ___ hand grip in left hand and ___ in 
left hip flexor, otherwise ___ throughout  

DISCHARGE PHYSICAL EXAM
=======================
Vitals:  99.2 76 148/75 18 93% (RA)
General: alert, oriented, no acute distress, coughing 
occasionally
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: audible wheeze with cough, diffuse mild wheezing and 
crackles on the right. Few crackles and mild wheezing on left. 
Dullness to percussion in the right hemithorax approximately 
halfway up; Abdomen: Soft, non-tender, non-distended, bowel 
sounds present, no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: CNII-XII intact, ___ hand grip in left hand and ___ in 
left hip flexor, otherwise ___ throughout  
 
Pertinent Results:
ADMISSION LABS
=================
___ 04:25PM BLOOD WBC-16.1*# RBC-4.71 Hgb-13.7 Hct-41.0 
MCV-87 MCH-29.1 MCHC-33.4 RDW-14.0 RDWSD-45.2 Plt ___
___ 04:25PM BLOOD Glucose-191* UreaN-17 Creat-0.5 Na-128* 
K-4.2 Cl-94* HCO3-21* AnGap-17
___ 07:26AM BLOOD Albumin-2.8* Calcium-8.7 Phos-2.8 Mg-1.3*
___ 04:48PM BLOOD Lactate-1.7

DISCHARGE LABS
=================
___ 08:05AM BLOOD WBC-8.0 RBC-4.45 Hgb-13.2 Hct-38.9 MCV-87 
MCH-29.7 MCHC-33.9 RDW-13.9 RDWSD-44.4 Plt ___
___ 08:05AM BLOOD Glucose-107* UreaN-12 Creat-0.4 Na-132* 
K-4.4 Cl-95* HCO3-25 AnGap-16
___ 08:05AM BLOOD Calcium-9.5 Phos-3.7 Mg-1.5*

IMAGING
=================
No imaging at ___

Atrius CXR ___  
Multifocal infiltrates right lung as above. An additional lower 
thoracic compression fracture.  

 
Brief Hospital Course:
___ with history of inclusion body myositis and recurrent UTIs 
presented to PCP with fever and productive cough x 5 days found 
to be hypoxic on room air with multifocal infiltrates in right 
lung. 

# COMMUNITY ACQUIRED PNEUMONIA: Presented with cough to PCP who 
found her with sat of 91%. No CP or EKG changes to suggest 
cardiac etiology. Felt most likely to be PNA and as she has no 
recent hospitalizations and lives at home it was likely 
community-acquired PNA as evidenced by leukocytosis, hypoxia, 
productive cough and infiltrates on CXR. She had gotten one dose 
of azithromycin as an outpatient but was broadened to 
levofloxacin 750mg for 5 day course to end ___. Her sputum grew 
out gram positive cocci in pairs/respiratory flora. She was 
weaned off of oxygen on hospital day 2, she never needed more 
than 2L via NC. Her WBC downtrended during her stay and she was 
discharged home with antibiotics as above, benzonatate, and 
guaifenesin. 

# HYPONATREMIA: Presented with a Na of 128. Urine osms returned 
363 and likely indicates an amount of SIADH given a history of 
the same in the past and now with pneumonia. Also likely to have 
a low solute component ___ to poor PO intake since kyphoplasty 
(10-lb wt loss over 4 months). No evidence of hypervolemia on 
exam. Her diet was adjusted to a 2L fluid restriction after 
initially receiving a 1L bolus for resuscitation. Her Na 
increased to 131 and her ___ (who works in ___ said that 
this is normal for her so no further repletion was sought.

# FALL: Suffered a fall in the setting of raising arms for 
lateral CXR at PCP's office. She states she is unstable on her 
feet ___ inclusion body myositis. No new back pain or 
tenderness. T11 Fracture that is seen on CXR and commented as 
new is actually old and mentioned on old MRI. Physical therapy 
saw and recommended home ___. 

# INCLUSION BODY MYOSITIS: Patient on no specific treatment for 
this. Followed by ___ Neurologist, Dr. ___/ Has 
weakness in hands, pulmonary muscles and legs per report. PFTs 
done in ___ suggested moderate restrictive defect felt to be 
consistent with muscle weakness. Discussed with patient that 
this puts her at risk for decompensation from a respiratory 
standpoint due to current pneumonia. **She would accept 
intubation for a reversible and temporary cause.**

# RECURRENT UTIs: patient with history of recurrent UTIs on 
keflex prophylaxis. Also performes intermittent striaght 
catheterization due to neurogenic bladder. Keflex held since she 
is on levofloxacin. Per PCP, ordered UA and urine cx which were 
negative. Discharged to restart Keflex after Levofloxacin. 

CHRONIC ISSUES: 
# HTN: continued atenolol, lasix, clonidine. 
# HLD: not on therapy. 
#compression fxs-old, continue calcium and vit D

TRANSITIONAL ISSUES:
====================
- F/u with PCP within next 2wks
- 5d Levofloxacin to end ___
- discuss bisphosphate therapy with primary care physician

CODE STATUS: DNR/Ok to intubate 
CONTACT: ___ and HCP  
Phone number: ___  
Cell phone: ___  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyproheptadine 4 mg PO Q8H:PRN Nausea 
2. Furosemide 20 mg PO DAILY Leg swelling 
3. Metoclopramide 10 mg PO QIDACHS 
4. TraZODone 25 mg PO QHS:PRN Insomnia 
5. NexIUM (esomeprazole magnesium) 40 mg oral BID 
6. Cephalexin 250 mg PO QHS 
7. CloniDINE 0.1 mg PO BID 
8. Sertraline 25 mg PO DAILY 
9. imiquimod 5 % topical Unknown 
10. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
11. Senna 8.6 mg PO BID:PRN Constipation 
12. Atenolol 25 mg PO BID 
13. Lactobacillus rhamnosus GG 1 capsule oral DAILY 
14. cranberry extract ___  oral DAILY 
15. Albuterol Inhaler 2 PUFF IH Q6H:PRN shorntess of breath 
16. Lactulose 15 mL PO BID 
17. Ascorbic Acid ___ mg PO DAILY 
18. Vitamin D 800 UNIT PO DAILY 

 
Discharge Medications:
1. Cephalexin 250 mg PO QHS 
2. cranberry extract ___  oral DAILY 
3. Furosemide 20 mg PO DAILY Leg swelling 
4. imiquimod 5 % topical Unknown 
5. Lactobacillus rhamnosus GG 1 capsule oral DAILY 
6. NexIUM (esomeprazole magnesium) 40 mg oral BID 
7. Calcium Carbonate 1000 mg PO DAILY 
RX *calcium carbonate 500 mg calcium (1,250 mg) 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0
8. Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*0
9. Guaifenesin ER 1200 mg PO Q12H 
RX *guaifenesin 600 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*20 Tablet Refills:*0
10. Levofloxacin 750 mg PO DAILY Duration: 4 Days 
11. Vitamin D 800 UNIT PO DAILY 
12. Atenolol 25 mg PO BID 
13. CloniDINE 0.1 mg PO BID 
14. Cyproheptadine 4 mg PO Q8H:PRN Nausea 
15. Metoclopramide 10 mg PO QIDACHS 
16. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
17. Senna 8.6 mg PO BID:PRN Constipation 
18. Sertraline 25 mg PO DAILY 
19. TraZODone 25 mg PO QHS:PRN Insomnia 
20. Lactulose 15 mL PO BID 
21. Ascorbic Acid ___ mg PO DAILY 
22. Albuterol Inhaler 2 PUFF IH Q6H:PRN shorntess of breath 
23. Space Chamber Plus (inhalational spacing device) use with 
inhaler  miscellaneous with inhaler 
RX *inhalational spacing device [ProChamber]   with inhalers 
Disp #*1 Each Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
- Pneumonia

SECONDARY DIAGNOSES:
====================
- Hyponatremia
- Inclusion body myositis
- Recurrent urinary tract infections
- Hypertension
- Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure caring for you at ___. You were admitted for 
your pneumonia and out of concern for your breathing. We treated 
you with a strong antibiotic called levofloxacin and your blood 
tests showed that your infection seemed to be getting better. 
Your breathing was still strained so we gave you an albuterol 
nebulizer to use. You were discharged with 1 day left of your 
antibiotics which will finish on ___.

Best of luck with your recovery,
Your ___ medicine team
 
Followup Instructions:
___